US07531547B2
A solution of 2-(4-Amino-2,6-dimethoxy-phenyl)-propan-2-ol (2.2 g, 10.4 mmol) in chloroform (100 mL) was refluxed overnight. The cooled reaction mixture was concentrated under reduced pressure to yield 4-Isopropenyl-3,5-dimethoxy-phenylamine, which was used directly in the following step.

reactant | 2-(4-Amino-2,6-dimethoxy-phenyl)-propan-2-ol | 10.4 mmol, 2.2 g | NC1=CC(=C(C(=C1)OC)C(C)(C)O)OC | C11H17NO3
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Isopropenyl-3,5-dimethoxy-phenylamine | C(=C)(C)C1=C(C=C(C=C1OC)N)OC | C11H15NO2
